US05084463
Step 2) Preparation of 2-(Chloromethyl)-6-fluoroquinoline
6-Fluoro-2-methylquinoline N-oxide (2.70 g, 15.25 mmol) was added to a stirring solution of p-toluenesulfonyl chloride (2.9 g, 15.21 mmol) in dichloroethane (100 mL). The reaction mixture was heated to 100° C. overnight under N2, cooled and concentrated, partitioned between 10% K2CO3 /ethyl acetate, dried over MgSO4 and evaporated under reduced pressure to afford a solid. The crude solid was purified by flash chromatography (15:1 hexane/ethyl acetate) to afford 1.59 g (63%) of pure product as an off white solid.

reactant | 6-Fluoro-2-methylquinoline N-oxide | 15.25 mmol, 2.70 g | FC=1C=C2C=CC(=[N+](C2=CC1)[O-])C | C10H8FNO
reactant | p-toluenesulfonyl chloride | 15.21 mmol, 2.9 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | dichloroethane | 100 mL | ClC(C)Cl | C2H4Cl2
product | 2-(Chloromethyl)-6-fluoroquinoline | 1.59 g, 63% | ClCC1=NC2=CC=C(C=C2C=C1)F | C10H7ClFN
